US07786132B2
(ii) 2-(2-Chloro-5-fluoropyrimidin-4-yl)-N-(4-fluorophenyl)-N-methylthiazol-5-amine
2.1 mL (5.3 mmol) of a 2.5 M solution of nBuLi in hexane was added to a stirred solution of 1.0 g (4.8 mmol) of N-(4-fluorophenyl)-N-methylthiazol-5-amine in 30 mL of THF at −78° C. The solution was stirred for 30 min at −78° C. before 0.61 mL (5.3 mmol) of 2-chloro-5-fluoropyrimidine was added. The reaction solution was stirred for 1 h at −78° C., then quenched by addition of 0.83 mL (14 mmol) of AcOH. A solution of 2,3-dichloro-5,6-dicyano-1,4-benzoquinone (1.1 g, 4.8 mmol) in 5 mL of THF was added and the reaction solution was warmed to 0° C. and stirred for 10 min then poured into 600 mL of water and the solid product was collected by filtration, washed with water and dried in vacuo. MS (M+H)+ 339.

reactant | nBuLi | [Li]CCCC
reactant | N-(4-fluorophenyl)-N-methylthiazol-5-amine | 4.8 mmol, 1.0 g | FC1=CC=C(C=C1)N(C1=CN=CS1)C | C10H9FN2S
reactant | 2-chloro-5-fluoropyrimidine | 5.3 mmol, 0.61 mL | ClC1=NC=C(C=N1)F | C4H2ClFN2
reactant | AcOH | 14 mmol, 0.83 mL | CC(=O)O | C2H4O2
reactant | 2,3-dichloro-5,6-dicyano-1,4-benzoquinone | 4.8 mmol, 1.1 g | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
solvent | hexane | CCCCCC | C6H14
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | water | 600 mL | O | H2O
product | 2-(2-Chloro-5-fluoropyrimidin-4-yl)-N-(4-fluorophenyl)-N-methylthiazol-5-amine | ClC1=NC=C(C(=N1)C=1SC(=CN1)N(C)C1=CC=C(C=C1)F)F | C14H9ClF2N4S
